US08383644B2
(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester (100 mg) was coupled with (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester (50 mg) according to General Procedure L to give (S)-8-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-1-methyl-ethyl-carbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]-isoquinoline-7-carboxylic acid tert-butyl ester (106 mg). This intermediate was deprotected according to General Procedure C to give (S)-3-(4′-cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-2-methyl-propionic acid methyl ester hydrochloride. This compound (40 mg) was further reacted with 2-acetylamino-4-methyl-thiazole-5-sulfonyl chloride to give (S)-2-({(S)-7-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester according to General Procedure E. This product (25 mg) was hydrolyzed according to General Procedure B to give the title. LCMS (m/z): 966.

reactant | (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2CC1C(=O)O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C30H29Cl2NO7
reactant | (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester | 50 mg | COC([C@@](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(C)N)=O | C18H18N2O2
product | (S)-8-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-1-methyl-ethyl-carbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]-isoquinoline-7-carboxylic acid tert-butyl ester | 106 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2CC1C(N[C@](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C48H45Cl2N3O8
